US07608631B2
Preparation of 5-chloro-3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-isoxazole
150 mg of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzimidoyl chloride are placed in 1 ml of 1,1-dichloroethane at 0° C., and a solution of 76 mg of triethylamine in 1 ml of 1,1-dichloroethane is added dropwise thereto over a period of one hour. After one hour at 0° C. and 18 hours at 25° C., the reaction mixture is poured onto water and extracted with ethyl acetate. Concentration and purification over silica gel yield the title compound (compound 1.17).

reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzimidoyl chloride | 150 mg | ClC1=C(OCCCOC2=CC=C(C(=NO)Cl)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H16Cl5NO4
reactant | triethylamine | 76 mg | C(C)N(CC)CC | C6H15N
reactant | 1,1-dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
reactant | 1,1-dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
product | 5-chloro-3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-isoxazole | ClC1=CC(=NO1)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C21H16Cl5NO4
